US07652153B2
(1R,3S,4S)-3-((S)-2-tert-Butoxycarbonyl-1-formyl-ethylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester
A solution of (1R,3S,4S)-3((S)-2-tert-Butoxycarbonyl-1-hydroxymethyl-ethylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester (1.1 g) in DCM (10 ml) was cooled to 0° C. under nitrogen. 2,2,6,6-tetramethylpiperidinyloxy (TEMPO, 4 mg) was then added followed by trichloroisocyanuric acid (621 mg) portionwise over 30 minutes. The mixture was stirred at ambient temperature for 1 hour, then filtered through celite. The filtrate was washed with water, 1M sodium thiosulfate solution and brine. Drying over magnesium sulfate and concentration under reduced pressure gave the sub-title compound as a colorless oil (698 mg, 64%); 1H NMR (400 MHz, d-6 DMSO) δ 1.16-1.89 (16H, m), 2.30-2.80 (2H, m), 3.68-3.81 (1H, m), 4.19 (1H, brm), 4.39 (1H, m), 4.91-5.16 (2H, m), 7.21-7.43 (5H, m), 8.45 (0.4H, d), 8.60 (0.6, d), 9.19 (0.6H, S), 9.37 (0.4H, s).

reactant | (1R,3S,4S)-3((S)-2-tert-Butoxycarbonyl-1-hydroxymethyl-ethylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester | 1.1 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2CC[C@H]([C@H]1C(N[C@@H](CC(=O)OC(C)(C)C)CO)=O)C2 | C23H32N2O6
reactant | trichloroisocyanuric acid | 621 mg | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (1R,3S,4S)-3-((S)-2-tert-Butoxycarbonyl-1-formyl-ethylcarbamoyl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid benzyl ester | 698 mg, 64% | C(C1=CC=CC=C1)OC(=O)N1[C@@H]2CC[C@H]([C@H]1C(N[C@@H](CC(=O)OC(C)(C)C)C=O)=O)C2 | C23H30N2O6
